US06420364B1
4-(4-Cyano-4-{3-cyclohexyl-2-[(morpholine-4-carbonyl)-amino]-propionylamino}-piperidin-1-yl)-butyric Acid
The title compound is prepared from morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide hydrochloride and 4-bromo-butyric acid in the presence of a hindered tertiary amine base such as Hunig's base in a solvent such as methylene chloride.

reactant | morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide hydrochloride | Cl.C(#N)C1(CCNCC1)NC(=O)C(CC1CCCCC1)NC(=O)N1CCOCC1
reactant | 4-bromo-butyric acid | BrCCCC(=O)O | C4H7BrO2
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(4-Cyano-4-{3-cyclohexyl-2-[(morpholine-4-carbonyl)-amino]-propionylamino}-piperidin-1-yl)-butyric Acid | C(#N)C1(CCN(CC1)CCCC(=O)O)NC(C(CC1CCCCC1)NC(=O)N1CCOCC1)=O | C24H39N5O5
